US04948810
1.15 g 4-[2-(4-chlorophenyl)sulfonylaminopropyl]phenoxyacetic acid are dissolved in a mixture of 7 ml of methylene chloride and 7 ml of tetrahydrofuran, and 2.2 ml of thionyl chloride are added thereto. After the mixture is refluxed for 2 hours, the solvent is distilled off to give 4-[2-(4-chlorophenyl)sulfonylaminopropyl]phenoxyacetyl chloride as ocherous oil. The product obtained above is dissolved in 10 ml of tetrahydrofuran. The solution and 6 ml of 0.6N an aqueous sodium hydroxide solution are added dropwise to a mixture of 787 mg of 6-aminohexanoic acid, 11 ml of 0.6N an aqueous sodium hydroxide solution, 20 ml of ethanol and 10 ml of ether under stirring at the same time. After the mixture is stirred at room temperature overnight, 50 ml of water and 50 ml of ether are added thereto. The aqueous layer is made acidic with 10% hydrochloric acid, extracted with ethyl acetate, washed, dried, filtered, and evaporated to remove the solvent. Thus obtained pale yellow caramel is purified by silica gel column chromatography (solvent; chloroform, then chloroform: methanol=9:1) to give 1.50 g of 6-{ 4-[2-(4-chlorophenyl)sulfonylaminopropyl]phenoxyacetylamino}-n-hexanoic acid as colorless oil.

reactant | 4-[2-(4-chlorophenyl)sulfonylaminopropyl]phenoxyacetic acid | 1.15 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(CC1=CC=C(OCC(=O)O)C=C1)C | C17H18ClNO5S
reactant | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | thionyl chloride | 2.2 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[2-(4-chlorophenyl)sulfonylaminopropyl]phenoxyacetyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)NC(CC1=CC=C(OCC(=O)Cl)C=C1)C | C17H17Cl2NO4S
